US04523032
2-(3,5-Di-t-butyl-4-hydroxyphenyl)-2-methylbutanoic acid
0.1 mole of 2,6-di-t-butylphenol, 0.12 mole of chloroform, 1 mole of 2-butanone, and 0.003 mole of benzyltriethylammonium were mixed in the 500 ml three-neck reactor while stirring. 0.5 mole of powdered sodium hydroxide was added in small portions during a 30 minute period. After the addition, the reaction temperature was slowly raised to 10° and stirred overnight. 200 ml of 4N HCl then was added slowly. The resulting 2 layers were separated. The aqueous layer was extracted twice with 50 ml methylene chloride and this was combined with the organic layer, then dried with sodium sulfate and concentrated. The residue was washed with hexanes to obtain crystals in 80% yield. The melting point was 141°-144° C.; molecular weight 306; carbon-calculated 74.47%, found 74.60%; hydrogen-calculated 9.87%, found 9.89%.

reactant | 2,6-di-t-butylphenol | 0.1 mole | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | chloroform | 0.12 mole | C(Cl)(Cl)Cl | CHCl3
reactant | 2-butanone | 1 mole | CC(CC)=O | C4H8O
reactant | benzyltriethylammonium | 0.003 mole | C(C1=CC=CC=C1)[N+](CC)(CC)CC
reactant | sodium hydroxide | 0.5 mole | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | HCl | 4N, 200 ml | Cl | ClH
product | 2-(3,5-Di-t-butyl-4-hydroxyphenyl)-2-methylbutanoic acid | 80% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)O)(CC)C | C19H30O3
